US08466193B2
1H-Pyrrole-2-carbaldehyde was alkylated with (2-bromoethoxy)(tert-butyl)dimethylsilane as described in Example 12, step 1 to provide 1-(2-ethoxy-tert-butyldimethylsilane-1H-pyrrole-2-carbaldehyde as a light yellow oil.

reactant | 1H-Pyrrole-2-carbaldehyde | N1C(=CC=C1)C=O | C5H5NO
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 2-ethoxy-tert-butyldimethylsilane 1H-pyrrole-2-carbaldehyde | CCO[Si](C)(C)C(C)(C)C.N1C(=CC=C1)C=O | InChI=1S/C8H20OSi.C5H5NO/c1-7-9-10(5,6)8(2,3)4;7-4-5-2-1-3-6-5/h7H2,1-6H3;1-4,6H
